US07132539B2
Preparation of 3-[2-(2-allyl-4-benzyloxy-pyrrolidin-1-yl)-1-(4-fluorobenzyl)-2-oxo-ethylcarbamoyl]-3,4-dihydro-1H-isoquinoline-2-carboxylic acid tert-butyl ester (55):
To solution of 1-(2-allyl-4-benzyloxy-pyrrolidin-1-yl)-2-amino-3-(4-fluorophenyl)-propan-1-one, 54, (1.4 mmol) is dissolved in DMF (10 mL) are added N-Boc-tetrahydroisoquinoline-3-carboxylic acid (0.47 g, 1.5 mmol), 1-hydroxybenzotriazole (0.43 g, 2.8 mmol), N-methylmorpholine (0.84 g, 8.3 mmol) and 1-(3-dimethylamino-propyl)-3-ethylcarbodiimide (0.32 g, 1.7 mmol) at 0° C. The reaction mixture is stirred at 0° C. for 1 hour and then warmed to room temperature and stirred an additional 1.5 hour. The reaction is quenched with saturated NH4Cl solution and then extracted 3 times with EtOAc (70 mL). The organic layers are combined, washed with saturated NaCl solution, dried over Na2SO4, and the solvent is removed in vacuo. The crude product is purified over silica to afford 0.69 g (77% yield) of the desired product as a white solid. 1H NMR (300 MHz, MeOD, Rotamers) δ 6.90–7.41 (m, 13H), 5.55–5.81 (m, 1H), 4.32–5.12 (m, 8H), 3.94–4.18 (m, 2H), 2.75–3.89 (m, 6H), 2.39–2.64 (m, 1H), 1.78–2.29 (m, 2H), 1.20–1.64 (m, 10H); MS (ESMS) m/z 642.2 (M+H)+.

reactant | 1-(2-allyl-4-benzyloxy-pyrrolidin-1-yl)-2-amino-3-(4-fluorophenyl)-propan-1-one | C(C=C)C1N(CC(C1)OCC1=CC=CC=C1)C(C(CC1=CC=C(C=C1)F)N)=O | C23H27FN2O2
reactant | N-Boc-tetrahydroisoquinoline-3-carboxylic acid | 1.5 mmol, 0.47 g | C(=O)(OC(C)(C)C)N1CC2=CC=CCC2CC1C(=O)O | C15H21NO4
reactant | 1-hydroxybenzotriazole | 2.8 mmol, 0.43 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | N-methylmorpholine | 8.3 mmol, 0.84 g | CN1CCOCC1 | C5H11NO
reactant | 1-(3-dimethylamino-propyl)-3-ethylcarbodiimide | 1.7 mmol, 0.32 g | CN(CCCN=C=NCC)C | C8H17N3
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 3-[2-(2-allyl-4-benzyloxy-pyrrolidin-1-yl)-1-(4-fluorobenzyl)-2-oxo-ethylcarbamoyl]-3,4-dihydro-1H-isoquinoline-2-carboxylic acid tert-butyl ester | 0.69 g, 77% yield | C(C)(C)(C)OC(=O)N1CC2=CC=CC=C2CC1C(NC(C(=O)N1C(CC(C1)OCC1=CC=CC=C1)CC=C)CC1=CC=C(C=C1)F)=O | C38H44FN3O5
